US04198347
Ethyl cyanoacetate (77.0 g.) was slowly added at 40° C. to a stirred solution of sodium (15.7 g.) in ethanol (400 ml.) and 15 minutes after the addition was completed 1-bromo-3,3-dimethylallene (100 g.) was carefully added over about 30 minutes. The mixture was then heated at the reflux temperature for a period of 2.5 hours and then kept at the ambient temperature for a further 20 hours. The mixture was then poured into an excess of water and extracted with chloroform. The extract was washed with water, dried over anhydrous magnesium sulphate and concentrated by evaporation of the solvent. The residual oil was distilled and ethyl 2-cyano-3,3-dimethylpent-4-ynoate was obtained as a colourless oil (boiling point 75°-76° C./0.1 mm Hg.).

reactant | Ethyl cyanoacetate | 77.0 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium | 15.7 g | [Na] | Na
reactant | 1-bromo-3,3-dimethylallene | 100 g | BrC=C=C(C)C | C5H7Br
reactant | water | O | H2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | ethyl 2-cyano-3,3-dimethylpent-4-ynoate | C(#N)C(C(=O)OCC)C(C#C)(C)C | C10H13NO2
